US08076359B2
Step 3: 4-[4-(2-Hydroxyethoxy)phenyl]piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester
To a sol. of compound 4-{4-[2-(tert-Butyldimethylsilanyloxy)ethoxy]phenyl}piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (7.60 g, 15.4 mmol) in THF (150 mL) at 0° C. and under Ar was added TBAF (4.86 g, 15.4 mmol). After stirring the mixture for 1 h, aq. sat. NH4Cl (100 mL) was added, and the reaction mixture was extracted with EtOAc (2×). The org. layer was washed with water, brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the residue by FC (EtOAc/heptane 2:1→1:0) yielded the title compound (5.06 g, 87%). LC-MS: tR=0.91 min, ES+=380.30.

reactant | 4-{4-[2-(tert-Butyldimethylsilanyloxy)ethoxy]phenyl}piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 15.4 mmol, 7.60 g | COC(=O)C1CN(CCC1C1=CC=C(C=C1)OCCO[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C | C26H43NO6Si
reactant | TBAF | 15.4 mmol, 4.86 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-[4-(2-Hydroxyethoxy)phenyl]piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 5.06 g, 87% | COC(=O)C1CN(CCC1C1=CC=C(C=C1)OCCO)C(=O)OC(C)(C)C | C20H29NO6
